.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include invx1_layout_pex.spice

VDD vdd 0 DC 1.8
VSS vss 0 DC 0

.param d_half_slew = 5p
.param d_rise_point = 10n

VD a 0 PWL(0n 1.8 {d_rise_point - d_half_slew} 1.8 {d_rise_point + d_half_slew} 0)

XDF1 a y vdd vss invx1
CLOAD y vss 0.5f

.tran 10p 20n

.meas tran i_stable find i(vdd) at=5n
.meas tran p_static param='abs(i_stable)*1.8'

.meas tran energy_dynamic integ par('i(vdd) * v(vdd)') from=9.5n to=10.5n
.meas tran p_dynamic param='(abs(energy_dynamic) / 1n) - p_static' 

.control
run

set color0 = white
set color1 = black
set color2 = red

plot V(a) V(y) 
plot i(vdd)
.endc

.end
